* gnetlist -g spice-sdb -o motor.net motor.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from /home/todoesverso/simul/spice/bjt/2N2222.mod vvvvvvvv
.model 2N2222 NPN(IS=1E-14 VAF=100
+   BF=200 IKF=0.3 XTB=1.5 BR=3
+   CJC=8E-12 CJE=25E-12 TR=100E-9 TF=400E-12
+   ITF=1 VTF=2 XTF=3 RB=10 RC=3 RE=1 Vceo=30 Icrating=800m  mfg=Philips)
*^^^^^^^^  End of included SPICE model from /home/todoesverso/simul/spice/bjt/2N2222.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
V2 in 0 pulse 0 5 10n 10n 10n 5u 10u
R5 in vbasebc 10K  
R4 2 1 1k  
Q2 out vbase 3 2N2222 
Q1 vbase vbasebc 0 2N2222 
R3 0 vbase 1k  
R_motor out 1 100  
V_motor 1 0 12V
R2 vbase 2 9k  
R6 0 3 1  
.end
